US06974639B2
In a 500 ml-three-necked flask, 12.6 g (85.2 mM) of 2,5-dichloropyridine, 15.2 g (85.4 mM) of benzothiophene-2-boronic acid, 75 ml of toluene, 37.5 ml of ethanol and 75 ml of 2M-sodium carbonate aqueous solution were placed and stirred at room temperature under nitrogen stream, and 3.06 g (2.64 mM) of tetrakis(triphenylphosphine)palladium (0) was added thereto, followed by refluxing under stirring for 8 hours under nitrogen stream. After the reaction, the reaction mixture was cooled on an ice bath to precipitate a crystal, which was then filtered out and washed with water. To the crystal, 100 ml of methanol was added and washed under stirring at room temperature, followed by filtration to recover the crystal. The crystal was purified by silica gel column chromatography (eluent: chloroform) and recrystallized from a mixture solvent of chloroform-methanol to obtain 11.8 g (Yield: 56.4%) of 5-chloro-2-(benzo[b]thienyl)pyridine (colorless crystal).

reactant | 2,5-dichloropyridine | 85.2 mM, 12.6 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | benzothiophene-2-boronic acid | 85.4 mM, 15.2 g | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.64 mM, 3.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 37.5 ml | C(C)O | C2H6O
product | 5-chloro-2-(benzo[b]thienyl)pyridine | 11.8 g, Yield: 56.4% | ClC=1C=CC(=NC1)C1=CC2=C(S1)C=CC=C2 | C13H8ClNS
